US04898866
3-Methyl-3-(thien-2-yl)-piperazin-2-one
The Grignard solution prepared from 7.3 g of Mg and 42.6 g of methyl iodide in 150 ml of diethyl ether is added dropwise slowly at room temperature to a solution of 18 g of 3-(thien-2-yl)-5,6-dihydropyrazin-2-one in 150 ml of tetrahydrofuran. Stirring is continued for 15 hours at room temperature and the mixture is then hydrolyzed with 100 ml of water. The pH of the mixture is adjusted to 2 with concentrated HCl, the organic phase is separated off and the aqueous phase is extracted twice by shaking with diethyl ether and its pH is adjusted to 8 with potassium carbonate. The compound is then extracted with methylene chloride. The methylene chloride phase is dried and concentrated. The residual oil is purified by column chromatography over silica gel made by Merck, Darmstadt, type "0.04-0.06", the mobile phase being methylene chloride/methanol in a ratio by volume of 95:5. The fractions containing the compound are concentrated on a rotary evaporator and the residue is recrystallized from isopropanol.

reactant | methyl iodide | 42.6 g | CI | CH3I
reactant | 3-(thien-2-yl)-5,6-dihydropyrazin-2-one | 18 g | S1C(=CC=C1)C=1C(NCCN1)=O | C8H8N2OS
reactant | water | 100 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-Methyl-3-(thien-2-yl)-piperazin-2-one | CC1(C(NCCN1)=O)C=1SC=CC1 | C9H12N2OS
